US04560684
A mixture of ethyl 3-(4-chloroanilino)pyrrolidine-1-carboxylate (7.20 g) and conc. hydrochloric acid (72 ml) is heated under reflux over a period of 20 hours. The reaction mixture is concentrated in vacuo, and the residue is crystallized from methanol-isopropanol to give 3-(4-chloroanilino)pyrrolidine dihydrochloride (6.99 g) as crystals melting at 120° to 143° C. The yield is 96%.

reactant | ethyl 3-(4-chloroanilino)pyrrolidine-1-carboxylate | 7.20 g | ClC1=CC=C(NC2CN(CC2)C(=O)OCC)C=C1 | C13H17ClN2O2
reactant | hydrochloric acid | 72 ml | Cl | ClH
product | 3-(4-chloroanilino)pyrrolidine dihydrochloride | 6.99 g, yield is 96% | Cl.Cl.ClC1=CC=C(NC2CNCC2)C=C1 | InChI=1S/C10H13ClN2.2ClH/c11-8-1-3-9(4-2-8)13-10-5-6-12-7-10;;/h1-4,10,12-13H,5-7H2;2*1H
